US04766121
A solution of sodium nitrite (2.19 g) in water (20 ml) was added dropwise to a cooled (10°) solution of 3,5-dichloro-4-(4'methoxy-3'-(6-methoxy-3-pyridylmethyl) phenylthio) aniline (8.94 g) in glacial acetic acid (50 ml) and concentrated sulphuric acid (2.6 ml) with stirring. After 10 minutes urea (1.0 g) was added and this cool solution added from a dropping funnel to a cooled (5°) suspension of cuprous cyanide (19.0 g) and sodium cyanide (10.4 g) in water (260 ml) keeping the temperature of the mixture below 10°. This mixture was stirred vigorously whilst allowing to warm to room temperature and then heated at 60° for 0.5 hour. After cooling chloroform (250 ml) and sodium acetate (10 g) were added. The organic layer was separated and the aqueous re-extracted with chloroform. The combined organic extracts were washed with water (four times), dried over anhydrous magnesium sulphate and evaporated to afford a red solid which was chromatographed on silica gel using ethyl acetate-petroleum spirit (60-80, gradient elution) as eluant. 3,5-Dichloro-4(4'-methoxy-3'-(6-methoxy-3-pyridylmethyl)phenylthio)benzonitrile was obtained as a pale yellow solid (4.20 g, 46%), m.p. 147°-150°.

reactant | sodium nitrite | 2.19 g | N(=O)[O-].[Na+]
reactant | 3,5-dichloro-4-(4'methoxy-3'-(6-methoxy-3-pyridylmethyl) phenylthio) aniline | 8.94 g | ClC=1C=C(N)C=C(C1SC1=CC(=C(C=C1)OC)CC=1C=NC(=CC1)OC)Cl | C20H18Cl2N2O2S
reactant | urea | 1.0 g | NC(=O)N | CH4N2O
reactant | sodium cyanide | 10.4 g | [C-]#N.[Na+]
reactant | sodium acetate | 10 g | C(C)(=O)[O-].[Na+]
solvent | water | 20 ml | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | sulphuric acid | 2.6 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 260 ml | O | H2O
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | 3,5-Dichloro-4(4'-methoxy-3'-(6-methoxy-3-pyridylmethyl)phenylthio)benzonitrile | ClC=1C=C(C#N)C=C(C1SC1=CC(=C(C=C1)OC)CC=1C=NC(=CC1)OC)Cl | C21H16Cl2N2O2S
